US07807671B2
In a 100 ml 3 necked round bottom flask, intermediate tert-butyl 4-(cyanomethyl)piperazine-1-carboxylate (7 g) was taken in dry THF (125 ml) under nitrogen. lithium bis trimethylsilyl amide (10.8 g) was added dropwise at −78° C. and stirred for 1 hr, then diethyl chloro phosphate (5.84 g) in 5 ml dry THF was added drop wise to the above reaction mixture. Reaction mixture was stirred at −78° C. for 1 hour. TLC was checked no starting material and the reaction mixture was quenched with saturated ammonium chloride (250 ml) and ethyl acetate was added. The organic layer was washed with brine, dried and concentrated. The crude product was purified by column chromatography using 230-400 silica gel 2.5% methanol\chloroform as eluent to give compound tert-butyl 4-(cyano(diethoxyphosphoryl)methyl)piperazine-1-carboxylate as yellow liquid.

reactant | tert-butyl 4-(cyanomethyl)piperazine-1-carboxylate | 7 g | C(#N)CN1CCN(CC1)C(=O)OC(C)(C)C | C11H19N3O2
reactant | lithium bis trimethylsilyl amide | 10.8 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | diethyl chloro phosphate | 5.84 g | P(=O)(OCC)(OCC)OCl | C4H10ClO4P
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(cyano(diethoxyphosphoryl)methyl)piperazine-1-carboxylate | C(#N)C(N1CCN(CC1)C(=O)OC(C)(C)C)P(=O)(OCC)OCC | C15H28N3O5P
